US06833457B1
Production of 4-(chloromethyl)benzamide
To a mixture of 28% aqueous ammonia (19.3 g, 317 mmol, 4.0 eq) and toluene (30 mL) was dropwise added a 4-chloromethylbenzoyl chloride (15.0 g, 79.3 mmol)/toluene (30 mL) solution under ice-cooling. The mixture was stirred at room temperature for 1 hr. and under ice-cooling for 1 hr. The crystals were collected by filtration, washed with water (9 mL) and toluene (9 mL), and dried in vacuo at 40° C. to give the title compound (13.36 g, yield 99.3%) as white crystals.

reactant | ammonia | 317 mmol, 19.3 g, 4.0 eq | N | H3N
reactant | 4-chloromethylbenzoyl chloride | 79.3 mmol, 15.0 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(chloromethyl)benzamide | 13.36 g, yield 99.3% | ClCC1=CC=C(C(=O)N)C=C1 | C8H8ClNO
